Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Enalapril / Ampicillin
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
History taken from ED chart, ED physician and ___ RN. Pt is a 
poor historian. Family contacted but given lateness of the hour 
would prefer to be contacted only for emergencies.
.
The patient is a ___ y.o. F with h/o CAD, HTN, 
hypercholesterolemia, GERD who presents from home with CP, 
confusion. Pain began under her left breast when she walked to 
the bathroom. She took 2 SLNG at home without relief. She has 
been taking SLNG since ___. 
Of note review of OMR demonstrates that the patient was seen by 
in ___ clinic on ___ for delirium vs sundowning vs 
progression of her dementia complicated by hallucinations. C7, 
CBC, U/A and TSH were checked. All were within normal limits.
.
VS on presentation: 97.5, 83, 147/68, 19, 97% on RA. She was 
given 1500 cc NS. Given ASA 325 mg po qd, zofran 4mg IVx 2, 
tylenol ___ mg po x T. Lipse found to be >6000, abdominal CT c/w 
pancreatitis and + gall stone seen. ERCP notified in ED and 
patient admitted to 11 R.
.
Upon arrival to 11 R ___ interpretor contacted. Pt denies 
pain but repetitively states that she wants to go home to where 
her mother and father are. She does not obey commands. Oriented 
to self and date of birth. Per family pt did not fall and is 
confused at baseline but is more confused than usual.  All other 
limited ROS negative. 
.
 
Past Medical History:
1. CAD- has had negative ischemia workup in past with no 
perfusion defects seen on ETT-thal in ___ and ___, had rest 
thalium in ___  
2. Hypertension  
3. Hypercholesterolemia  
4. headache  
5. Gerd  
6. Cataracts  
7. h/o shingles  
8. h/o breast cancer in ___ - treated in ___ in ___ f/u  
mammograms  
negative  
9. atrial fibrillation - not on anticoagulation  
.  

 
Social History:
Taken from previous d/c summary- could not be confirmed on 
admission.
SOCIAL HISTORY: She graduated from high school; she is widowed.  

She has lived with her son and daughter-in-law for the past ___ 
years.  
She does not smoke. She does not drink, and she denies any  
recreational drug use.  Home services through  Till ___ every 
day). Pt pretty much manages own meds. Family  helps her with 
cooking/food prep. Pt walks around independently on one floor of 
house  
.
Per RN who contacted family pt walks with without a walker at 
baseline. 
family phone numbers from ED dashboard
[c] ___
[c] ___
[h] ___

 

 
Family History:
FAMILY HISTORY: Her mother died at ___ of heart problems; her dad 
 
died at ___ of heart problems. She had 1 sister who died at ___ of 
 
stroke. She had 2 brothers who died during World War II, and she 
 
had 2 sons, one died during the war and one is alive and the  
patient lives with him.  
 
Physical Exam:
T = 96.0, BP = 137/54, 16, P = 68, 91% on RA and 94% on 2L
.
GENERAL:  Thin elderly female curled up in bed.
Nourishment: At risk
Grooming: OK  
Mentation: Alert  
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted  
Ears/Nose/Mouth/Throat: dry MM, no lesions noted in OP  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, diminshed bowel sounds. Epigastric 
tenderness with moderate palpation. 
Genitourinary:  deferred
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics/Heme/Immun: No cervical, lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 1. Unable history 
-cranial nerves: II-XII grossly intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
-sensory: No deficits to light touch throughout.  
-cerebellar: No nystagmus, dysarthria, intention or action 
tremor, dysdiadochokinesia noted. FNF and HKS WNL bilaterally.  
-DTRs: 2+ biceps, triceps, brachioradialis, patellar and 1+ 
ankle jerks bilaterally. Plantar response was flexor 
bilaterally.  
No foley catheter/tracheostomy/PEG/ventilator support/chest  
tube/colostomy  
Psychiatric:  

 
Pertinent Results:
___ 06:08PM   GLUCOSE-99 UREA N-25* CREAT-1.4* SODIUM-141 
POTASSIUM-4.8 CHLORIDE-108 TOTAL CO2-28 ANION GAP-10
___ 06:08PM   estGFR-Using this
___ 06:08PM   ALT(SGPT)-34 AST(SGOT)-75* CK(CPK)-51 ALK 
PHOS-191* TOT BILI-0.7
___ 06:08PM   LIPASE-6035*
___ 06:08PM   cTropnT-<0.01
___ 06:08PM   CK-MB-NotDone
___ 06:08PM   WBC-11.3* RBC-4.27 HGB-12.6 HCT-37.9 MCV-89 
MCH-29.5 MCHC-33.2 RDW-14.7
___ 06:08PM   NEUTS-71.9* ___ MONOS-4.3 EOS-2.3 
BASOS-0.5
___ 06:08PM   PLT COUNT-351
___ 06:08PM   ___ PTT-26.3 ___
.
Admission abdominal CT:
IMPRESSION: Acute pancreatitis. Cholelithiasis with possible 
tiny stone in the distal CBD and at the ampulla of Vater -- 
possible gallstone pancreatitis.  
.
Admission ECG:
SR 72 bpm, no acute changes c/w prior.
.
ERCP ___:
Procedures: A sphincterotomy was performed in the 12 o'clock 
position using a sphincterotome over an existing guidewire.
2 stones were extracted successfully using a 12 mm balloon.  
 
Impression: Stones at the lower third of the common bile duct, 
otherwise normal biliary tree. 
Large stones in the gallbladder. 
A biliary sphincterotomy was performed. 
Stones were removed from the bile duct using a balloon.
Stones in the galbladder
No aspirin, plavix, NSAIDS, coumadin for 72 hours.

___ 11:56AM BLOOD WBC-12.7* RBC-3.80* Hgb-11.1* Hct-32.4* 
MCV-85 MCH-29.2 MCHC-34.3 RDW-15.1 Plt ___
___ 11:56AM BLOOD Glucose-66* UreaN-15 Creat-1.1 Na-140 
K-3.6 Cl-106 HCO3-20* AnGap-18
___ 06:08PM BLOOD ALT-34 AST-75* CK(CPK)-51 AlkPhos-191* 
TotBili-0.7
___ 07:10AM BLOOD ALT-259* AST-373* AlkPhos-227* 
Amylase-1080* TotBili-2.4*
___ 10:15AM BLOOD ALT-171* AST-146* AlkPhos-205* 
TotBili-1.4
___ 11:56AM BLOOD ALT-114* AST-69* AlkPhos-182* TotBili-0.8
___ 06:08PM BLOOD VitB12-421
___ 10:15AM BLOOD Triglyc-40
 
Brief Hospital Course:
The patient is a ___ y.o. F with Alzheimer's dementia, CAD s/p 
STEMI which was medically treated, GERD who presnts with 
delirium and is found to have gall stone pancreatitis.

Pancreatitis.  Secondary to gallstones.  Treated with IV fluids, 
NPO.  Did not require pain medication on the floor.  AM after 
admission, on labs appeared obstructed, with leukocytosis and 
elevated bilirubin.  Underwent ERCP complicated only by hypoxia, 
needed to be intubated transiently.  She had sphincterotomy and 
stones removed.  She improved symptomatically with no fevers and 
improved pain. Her statin was held for transaminitis. She will 
complete 1 week of antibioitcs.  
.
Delirium: Most likely secondary to acute pancreatitis in patient 
with known dementia.  Recent TFTs wnl. U/A negative. Continued 
supportive care.  She did sundown on her second night after 
admission, but appeared to be close to her baseline by 
discharge. 
.
CAD s/p STEMI with chronic systolic heart failure EF = 50% with 
2+ MR: Continued b-b.  Held IMDUR and LIPITOR.  Aspirin held due 
to sphincterotomy, but pt may resume on ___.  Lipitor held d/t 
elevated LFT's d/t biliary obstruction, and this should be 
resumed in follow up, allowing for time for her liver functions 
to improve.  Imdur was held d/t patient's low/normotensive BP.  
Please resume at follow up as tolerated.
.
HTN:
continued lopressor.
Imdur and diovan were held diring this admission, as pt remained 
normotensive off of these medications.  Please follow up pt's 
blood pressure, and resume medications as appropriate.
.
GERD:
Continued H2 blocker (ranitidine).

Dispo: discharged to home
 
Medications on Admission:
Taken from ED admission paperwork
Lipitor 80 mg po qd
Diovan 40 mg po qd
ASA 81 mg po qd
Imdur 60 mg po qd
SLNG 0.4 mg prn
Lopressor 25 mg po bid
Ranitidine 75 mg bid
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
2. Ranitidine HCl 75 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
3. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 5 days.
Disp:*5 Tablet(s)* Refills:*0*
4. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 5 days.
Disp:*15 Tablet(s)* Refills:*0*
5. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: as dir tab 
Sublingual as dir as needed for chest pain: 1 tab SL q 5 min x 3 
maximum; call ___ if chest pain not relieved.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gallstone pancreatitis
Cholelithiasis with obstruction
Dementia
Delirium
Leukocytosis

 
Discharge Condition:
Stable, tolerating diet

 
Discharge Instructions:
You were admitted with pancreatitis from gallstones.  You had a 
procedure to open up your bile duct and you improved.
.
Medication changes:
Do not take your lipitor, Diovan, or Imdur until you see Dr. 
___.
Continue Cipro and Flagyl antibiotics for 5 more days.
.
Do NOT take any aspirin until ___, at which time you may 
resume your aspirin 81 mg once daily.
.
Return to the ED with recurrent pain, nausea, vomiting, 
jaundice.
 
Followup Instructions:
___